US06271410B1
Cyanoacetic acid (85.5 g; 1.0 mol), decyl alcohol (206 g; 1.30 mol) and methanesulfonic acid (0.47 g; 0.005 mol) were introduced into a 500 ml flask under a nitrogen atmosphere. The mixture was warmed slowly to a maximum temperature of 130° C., while gradually reducing the pressure to about 10 mm of Hg. Water was continuously removed from the distillates (bp 60-65° C./50 mm of Hg) and the organic layer of decyl alcohol was returned to the flask until the reaction was complete. After distilling off the unreacted decyl alcohol, the decyl cyanoacetate (bp 143° C./1 mm of Hg) was isolated as a clear liquid. The yield was 219 g (97% of theoretical) with a purity of >99% (GC assay).

reactant | Cyanoacetic acid | 1.0 mol, 85.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | decyl alcohol | 1.30 mol, 206 g | C(CCCCCCCCC)O | C10H22O
reactant | methanesulfonic acid | 0.005 mol, 0.47 g | CS(=O)(=O)O | CH4O3S
product | decyl cyanoacetate | C(#N)CC(=O)OCCCCCCCCCC | C13H23NO2
